US09428515B2
2-Bromo-5-fluoro-N-(propan-2-yl)aniline E-1.7′″″
2-bromo-5-fluoroaniline E-1.7″″″ (2.00 g; 10.53 mmol) is suspended in 20 ml DCM and propan-2-one (1.55 ml; 21.05) is added and the reaction mixture is stirred for 16 at 20° C. Afterwards sodium triacetoxyborohydride (4.69 g; 21.05 mmol) is added and the reaction mixture is stirred for 48 h at 20° C. The reaction mixture is poured into water and extracted with DCM. The combined organic layer is dried over MgSO4 the solid materials are filtered off and HCl in dioxane is added until the pH value is below 2. The solvents are concentrated under reduced pressure. The crude product is purified using reversed phase chromatography (Method: prep. HPLC1). Product containing fractions are combined and extracted with DCM. To the organic layer HCl in dioxane is added until the pH value is below 2. The solvents are concentrated under reduced pressure.

reactant | 2-bromo-5-fluoroaniline | BrC1=C(N)C=C(C=C1)F | C6H5BrFN
reactant | propan-2-one | 1.55 ml | CC(C)=O | C3H6O
reactant | sodium triacetoxyborohydride | 21.05 mmol, 4.69 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-fluoro-N-(propan-2-yl)aniline | BrC1=C(NC(C)C)C=C(C=C1)F | C9H11BrFN
